US07468371B2
1-pent-4-ynoylpyrrolidine
To a solution of 4-pentynoic acid (981 mg, 10 mmol) in THF (40 mL) and DMF (2 drops) was added dropwise oxalyl chloride (0.96 mL, 11 mmol) over 10 min. The solution was stirred for 3 h at rt, then the flask was cooled in an ice bath and a solution of pyrrolidine (1.65 mL, 20 mmol) and Et3N (1.74 mL, 12.5 mmol) in THF (10 mL) was added dropwise over 17 min. The resulting suspension was stirred overnight, then filtered. The filtrate was partitioned between EtOAc (300 mL) and H2O. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated to dryness, giving the desired product as a brown solid (1.32 g, 87%). MS (APCI(+)) m/e 152.1 (M+H)+.

reactant | 4-pentynoic acid | 10 mmol, 981 mg | C(CCC#C)(=O)O | C5H6O2
reactant | oxalyl chloride | 11 mmol, 0.96 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyrrolidine | 20 mmol, 1.65 mL | N1CCCC1 | C4H9N
reactant | Et3N | 12.5 mmol, 1.74 mL | CCN(CC)CC | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-pent-4-ynoylpyrrolidine | 1.32 g, 87% | C(CCC#C)(=O)N1CCCC1 | C9H13NO
